US08124606B2
(S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (76 mg, 0.348 mmol), N-ethyl-2-fluoro-4-(piperazin-1-yl)benzamide hydrochloride (100 mg, 0.348 mmol), (cyanomethyl)trimethylphosphonium iodide (127 mg, 0.521 mmol) and N,N-diisopropylethylamine (0.303 ml, 1.738 mmol) were suspended in propiononitrile (Volume: 1.370 ml) and heated in a closed vial at 120° C. for 3 h. The reaction mixture became a dark brown suspension. It was cooled to room temperature, concentrated in vacuo, dissolved in DMSO (2 mL) and purified using HPLC (basic, 10-95% ACN in water). The fractions were concentrated in vacuo and the resulting solid was recrystallized from water-methanol (5:1, 6 mL) and dried in vacuum to afford (S)—N-ethyl-2-fluoro-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide (28.5 mg, 0.063 mmol, 18.12% yield) as a brownish solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.13 (t, J=7.20 Hz, 3H) 1.83-2.02 (m, 3H) 2.18 (dd, J=6.44, 4.17 Hz, 1H) 2.44-2.49 (m, 4H) 2.81-3.01 (m, 4H) 3.23-3.32 (m, 2H) 3.34-3.44 (m, 3H) 3.52-3.64 (m, 1H) 3.93-4.01 (m, 1H) 6.91 (td, J=8.21, 2.53 Hz, 1H) 6.97 (d, J=1.77 Hz, 1H) 7.00 (dd, J=11.37, 2.53 Hz, 1H) 7.62 (d, J=1.52 Hz, 1H) 7.67 (dd, J=8.46, 7.20 Hz, 1H) 8.86 (t, J=5.43 Hz, 1H) 10.45 (s, 1H). [M+H] calc'd for C24H29FN6O2, 453; found, 453.

reactant | (S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 0.348 mmol, 76 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C11H13N3O2
reactant | N-ethyl-2-fluoro-4-(piperazin-1-yl)benzamide hydrochloride | 0.348 mmol, 100 mg | Cl.C(C)NC(C1=C(C=C(C=C1)N1CCNCC1)F)=O
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.521 mmol, 127 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N,N-diisopropylethylamine | 1.738 mmol, 0.303 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | propiononitrile | 1.370 ml | C(CC)#N | C3H5N
product | (S)—N-ethyl-2-fluoro-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 0.063 mmol, 28.5 mg, 18.12% yield | C(C)NC(C1=C(C=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O)F)=O | C24H29FN6O2
